US04088772
A solution of 12.66 g of 9-anthroyl chloride in 50 ml of tetrahydrofuran is added dropwise to a stirred mixture of 8.69 g of N-propargylcyclohexylmethylamine and 9 g of magnesium oxide in 80 ml of tetrahydrofuran. After stirring at room temperature overnight, the mixture is filtered and the filtrate is concentrated to dryness. The residue is taken up in methylene chloride and washed, in turn, with dilute sulfuric acid, water, and dilute sodium hydroxide solution, and dried. Removal of the solvent gives 14.7 g of N-cyclohexylmethyl-N-propargyl-9-anthramide as an oil. It is dissolved in 100 ml of p-xylene and the mixture is heated under reflux for three hours. The solvent is removed, and the residue is heated under reflux with 60 ml of tetrahydrofuran and 60 ml of 15% aqueous sodium hydroxide solution for one hour. The mixture is concentrated to a small volume, diluted with water and filtered. The solid is washed with dilute alkali and water, dried, and crystallized from toluene to give 6.68 g of 2-cyclohexylmethyl-3,5-dihydro-5,9b-o-benzenobenz[e]isoindol-1(2H)-one; nmr spectrum: τ 2.3-3.4 (m, 9); 4.8 (d, J = 6Hz, 1) 5.9 (d, J = 2Hz, 2); 6.6 (d, J = 6.5 Hz, 2) and 8.0-9.2 (m, 11).

reactant | 9-anthroyl chloride | 12.66 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)Cl | C15H9ClO
reactant | N-propargylcyclohexylmethylamine | 8.69 g | C(C#C)NCC1CCCCC1 | C10H17N
reactant | magnesium oxide | 9 g | [O-2].[Mg+2]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | N-cyclohexylmethyl-N-propargyl-9-anthramide | 14.7 g | C1(CCCCC1)CN(C(=O)C=1C2=CC=CC=C2C=C2C=CC=CC12)CC#C | C25H25NO
